US07989472B2
Step A: Methyl 4-(2-hydroxybicyclo[2.2.1]hept-2-yl)benzoate
A solution of methyl 4-iodobenzoate (23.1 g, 0.0882 mol) dissolved in anhydrous THF (200 mL) was cooled to −47° C. Isopropyl magnesium chloride (48 mL of a 2.0 M solution in THF, 0.097 mol) was slowly added to the solution. The reaction mixture was stirred at −47° C. for 1 h, then cannulated into a pre-cooled solution of norcamphor (11.6 g, 0.105 mol) in THF (100 mL) at −47° C. The reaction mixture was subsequently stirred at −40° C. overnight, and was then allowed to warm to −20° C. Saturated aqueous ammonium chloride was added. EtOAc was used to extract three times. The combined organic portion was washed with water and brine, dried (MgSO4), filtered, concentrated, and purified by flash chromatography on silica gel (gradient elution; 0%-30% EtOAc/hexanes as eluent) to afford the title compound.

reactant | methyl 4-iodobenzoate | 0.0882 mol, 23.1 g | IC1=CC=C(C(=O)OC)C=C1 | C8H7IO2
reactant | Isopropyl magnesium chloride | C(C)(C)[Mg]Cl
reactant | norcamphor | 0.105 mol, 11.6 g | C1CC2CC1CC2=O | C7H10O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Methyl 4-(2-hydroxybicyclo[2.2.1]hept-2-yl)benzoate | OC1(C2CCC(C1)C2)C2=CC=C(C(=O)OC)C=C2 | C15H18O3
